US08242145B2
Step 2: [3-(4-Bromo-2-hydroxymethyl-phenoxy)-phenyl]-acetic acid ethyl ester
To [3-(4-bromo-2-formyl-phenoxy)-phenyl]-acetic acid ethyl ester (0.70 g, 1.9 mmol) in MeOH (20 mL) was added sodium borohydride (0.07 g, 1.9 mmol), and the reaction was stirred for 5 minutes at room temperature. Once no starting material was seen by analytical tlc, the mixture was worked-up to give the desired product (0.7 g).

reactant | [3-(4-bromo-2-formyl-phenoxy)-phenyl]-acetic acid ethyl ester | 1.9 mmol, 0.70 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)C=O)=O | C17H15BrO4
reactant | sodium borohydride | 1.9 mmol, 0.07 g | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | [3-(4-Bromo-2-hydroxymethyl-phenoxy)-phenyl]-acetic acid ethyl ester | 0.7 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CO)=O | C17H17BrO4
